US07432258B2
h) Ethyl 4′-[(1R)-1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-4-biphenylcarboxylate
Ethyl 4′-[(1R)-1-(methylamino)-2-(4-morpholinyl)ethyl]-4-biphenylcarboxylate (crude, 26.5 g) was dissolved in 500 mL of DMF at room temperature with magnetic stirring. The resulting solution was treated with (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid (28.8 g, 80.4 mmol, with 23 wt % LiCl) and cooled to 0° C. To this solution was added triethylamine (20.5 mL, 147.4 mmol) and BOP (35.5 g, 80.4 mmol). The reaction mixture was maintained at room temperature overnight. The reaction mixture was filtered. The filtrate was slowly added to 2500 mL of H2O with vigorous stirring. The resulting precipitate was collected by filtration and partitioned between 300 mL of brine solution and 1000 mL of DCM. The organic layer was dried over MgSO4, filtered, and concentrated. The brown residue was purified by column chromatography (250 g silica gel 60, 230-400 mesh, 2% MeOH and 0.5% NEt3 in CH2Cl2 as eluent) to give the title compound as a brown solid (31.3 g, 75% yield). MS (ES) m/e 626 [M+H]+.

reactant | Ethyl 4′-[(1R)-1-(methylamino)-2-(4-morpholinyl)ethyl]-4-biphenylcarboxylate | 26.5 g | CN[C@@H](CN1CCOCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C22H28N2O3
reactant | (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid | 80.4 mmol, 28.8 g | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)O)C1)Cl | C10H7Cl2NO4
reactant | triethylamine | 147.4 mmol, 20.5 mL | C(C)N(CC)CC | C6H15N
reactant | BOP | 80.4 mmol, 35.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | Ethyl 4′-[(1R)-1-[[(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetyl](methyl)amino]-2-(4-morpholinyl)ethyl]-4-biphenylcarboxylate | 31.3 g, 75% yield | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)N([C@@H](CN2CCOCC2)C2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)OCC)C)C1)Cl | C32H33Cl2N3O6
